US09334245B2
Bromomethyl acetate (38 μL, 387 μmol) was added to a mixture of (2S,4R)-5-biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid (100 mg, 242 μmol) and Et3N (35 μL, 254 μmol) in acetone (10 mL). The mixture was refluxed for 24 hours and the reaction monitored for completion. When the reaction was complete, the product was purified ((Interchim reverse phase chromatography column) the solvent was removed under vacuum to yield (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid acetoxymethyl ester.

reactant | Bromomethyl acetate | 387 μmol, 38 μL | C(C)(=O)OCBr | C3H5BrO2
reactant | (2S,4R)-5-biphenyl-4-yl-4-t-butoxycarbonylamino-2-hydroxymethyl-2-methyl-pentanoic acid | 242 μmol, 100 mg | C1(=CC=C(C=C1)C[C@H](C[C@@](C(=O)O)(C)CO)NC(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H31NO5
reactant | Et3N | 254 μmol, 35 μL | CCN(CC)CC | C6H15N
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | (2S,4R)-4-amino-5-biphenyl-4-yl-2-hydroxymethyl-2-methyl-pentanoic acid acetoxymethyl ester | C(C)(=O)OCOC([C@](C[C@@H](CC1=CC=C(C=C1)C1=CC=CC=C1)N)(C)CO)=O | C22H27NO5
